US04835318
Under protective gas, 31.5 g (0.185 mol) of 3-methoxybenzoyl chloride in 150 ml of CH2Cl2 are initially introduced into a round-bottomed flask. 48.6 g (0.2 mol) of phosphorous acid trisdiethylamide are added at about -10° C. 50 g (0.2 mol) of pentafluoroethyl iodide are then introduced into the reaction mixture at 0° C. during the course of one hour. The mixture is stirred for a further 5 hours at 0° C. and then worked up analogously to Example 1. 22.9 g (61% yield) of 1-(3-methoxyphenyl)-2,2,3,3,3-pentafluoropropan-1-one of b.p. 95°-97° C./11 mbar are obtained.

reactant | 3-methoxybenzoyl chloride | 0.185 mol, 31.5 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | pentafluoroethyl iodide | 0.2 mol, 50 g | FC(C(F)(F)F)(F)I | C2F5I
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-methoxyphenyl)-2,2,3,3,3-pentafluoropropan-1-one | 22.9 g, 61% yield | COC=1C=C(C=CC1)C(C(C(F)(F)F)(F)F)=O | C10H7F5O2
